US05247086
5-(Methylthio)-8-[3-(trifluoromethyl)phenyl]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-3-one
A solution of 3.18 kg of 4,5-dihydro-7-[3-(trifluoromethyl)-phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide in 30 L of tetrahydrofuran is cooled to 2.8° C. under nitrogen and stirred while 1370 g of potassium tert-butoxide is added portionwise over 25 minutes while maintaining a temperature less than 4° C. The reaction mixture is stirred at -6.2° C. for 45 minutes. To the reaction mixture is added 850 g of carbon disulfide through a dropping funnel over a 10 minute period while maintaining the temperature below 2° C. The funnel is rinsed with 500 ml of tetrahydrofuran and the reaction mixture allowed to stir for 45 minutes. While maintaining the temperature from -8° C. to 3.2° C.. 1870 g of methyl iodide is added dropwise through a dropping funnel. The funnel is rinsed with 500 ml of tetrahydrofuran and the reaction mixture allowed to stir for 1 hour. An additional 3804 g of methyl iodide is added. The reaction mixture is stirred for 50 minutes while cooling to -23.1° C. An additional 2530 g of potassium tert-butoxide is added over 2 hours while maintaining a temperature of -23.1° C. to 10.0° C. After half of the potassium tert-butoxide is added another 300 ml of methyl iodide is added. The remaining potassium tert-butoxide is added and the reaction mixture stirred while warming to room temperature overnight. The reaction mixture is diluted with 3 kg of ice and 10 L of water then added to 80 L of water with stirring. The reaction flask is rinsed with 26 L of water which is added to the ice and water containing the original reaction mixture. Stirring is continued for 40 minutes and the solids collected by filtration. The filter cake is washed with 20 L of water and dried at 30 mm Hg, 35° C. to afford 3.4 kg (90%) of the desired product.

reactant | 4,5-dihydro-7-[3-(trifluoromethyl)-phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide | 3.18 kg | FC(C=1C=C(C=CC1)C1=CCNC=2N1N=CC2C(=O)N)(F)F | C14H11F3N4O
reactant | potassium tert-butoxide | 1370 g | CC(C)([O-])C.[K+]
reactant | carbon disulfide | 850 g | C(=S)=S | CS2
solvent | tetrahydrofuran | 30 L | O1CCCC1 | C4H8O
product | 5-(Methylthio)-8-[3-(trifluoromethyl)phenyl]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-3-one | 3.4 kg, 90% | CSC1=NC(C=2C=NN3C(=CCN1C32)C3=CC(=CC=C3)C(F)(F)F)=O | C16H11F3N4OS
